US04369178
To a solution of t-butyloxycarbonyl-L-valyl-D-isoglutamine (1.73 g, 5 mmol) in DMF (5 ml) was added TEA (0.84 ml) and 6-chloro-1-p-chlorobenzenesulfonyloxybenzotriazole (2.06 g, 6 mmol) under cooling. After being stirred at room temperature for 4 hours, the mixture was cooled with ice again and ethanol (3 ml) and TEA (0.7 ml) were added. The mixture was stirred at room temperature for 24 hours. Ethyl acetate (100 ml) was added to the reaction mixture and the organic layer was then washed with a 5% aqueous sodium bicarbonate solution, 1 N hydrochloric acid and water successively. The mixture was then dried over anhydrous sodium sulfate and evaporated. The crystalline residue was recrystallized from ethyl acetate/petroleum ether to obtain ethyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate (820 mg). m.p. 128°-129° C. [α]D23 +8.4° (C 0.5, DMF). Rf2 =0.72, Rf3 =0.28.

reactant | t-butyloxycarbonyl-L-valyl-D-isoglutamine | 5 mmol, 1.73 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)O)C(N)=O | C15H27N3O6
reactant | 6-chloro-1-p-chlorobenzenesulfonyloxybenzotriazole | 6 mmol, 2.06 g | ClC=1C=CC2=C(N(N=N2)OS(=O)(=O)C2=CC=C(C=C2)Cl)C1 | C12H7Cl2N3O3S
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate | 820 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)OCC)C(N)=O | C17H31N3O6
